* C:\proj\bog_on_a_plate\spice\Draft3.asc
Q1 N002 N003 0 0 2N3904
R1 N001 N002 10k
R2 N002 N003 22k
V1 N001 0 9
V2 N003 0 SINE(0 0.1 1k)
C1 OUT N002 1000µ
R3 OUT 0 100k
.model NPN NPN
.model PNP PNP
.lib C:\Users\pontu\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 20m 0 1u
.backanno
.end
